US08895582B2
A 5 liter 3-neck RBF was charged with 4-nitrophenylchloroformate (126.3 g, 627 mmol), DCM (3000 mL), under N2 atm and chilled in a 0° C. ice bath. A solution of 2-chloro,3-fluorobenzylamine (100.0 g, 627 mmol) followed by solid Sodium Carbonate (155.0 g, 1460 mmol) was quickly added in one portion into the reaction solution. The reaction mixture was stirred at 0° C. for 1 h and an LC/MS was taken to confirm consumption of the starting material and presence of the nitrophenyl intermediate. The reaction mixture was allowed to warm to room temperature and stirred for approximately 2 h. The mixture was filtered, and the filtrate was concentrated to give a white solid. The solid was redissolved with 600 ml of DCM and heated to 40° C. until all of the material went into solution. The solution was chilled in a 0° C. ice bath to form crystals. The crystals were collected and dried under vacuum to give 4-nitrophenyl 2-chloro-3-fluorobenzylcarbamate. (150 g, 75%).

reactant | 4-nitrophenylchloroformate | 627 mmol, 126.3 g | C1=CC(=CC=C1[N+](=O)[O-])[Cl-]C(=O)[O-]
reactant | 2-chloro,3-fluorobenzylamine | 627 mmol, 100.0 g | ClC1=C(CN)C=CC=C1F | C7H7ClFN
reactant | Sodium Carbonate | 1460 mmol, 155.0 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | DCM | 600 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 3000 mL | C(Cl)Cl | CH2Cl2
product | 4-nitrophenyl 2-chloro-3-fluorobenzylcarbamate | ClC1=C(CNC(OC2=CC=C(C=C2)[N+](=O)[O-])=O)C=CC=C1F | C14H10ClFN2O4
